US08980938B2
1.0 g 5,6,7,8-tetrahydro-naphthalen-1-ol was dissolved in 20 ml of N,N-dimethylform-amide. To this solution was added slowly 0.256 g of 95% NaH, followed by addition of 0.768 ml of chloromethoxymethane. The reaction was flushed with nitrogen and left stirring overnight at room temperature. The reaction mixture was then diluted with 50 ml of water and extracted with 50 ml of diethyl ether. The organic layer was washed with 50 ml of water, dried over magnesium sulphate and concentrated in vacuo to afford a crude oil. This was purified by flash chromatography (silica, heptanes/dichloro-methane) to afford 1.0 g of 5-methoxymethoxy-1,2,3,4-tetrahydro-naphthalene.

reactant | 5,6,7,8-tetrahydro-naphthalen-1-ol | 1.0 g | C1(=CC=CC=2CCCCC12)O | C10H12O
reactant | NaH | 0.256 g | [H-].[Na+]
reactant | chloromethoxymethane | 0.768 ml | ClCOC | C2H5ClO
solvent | N,N-dimethylform-amide | 20 ml | CN(C=O)C | C3H7NO
product | 5-methoxymethoxy-1,2,3,4-tetrahydro-naphthalene | 1.0 g | COCOC1=C2CCCCC2=CC=C1 | C12H16O2
